US06743793B2
4-(2-Propyloxyethoxy)benzoic Acid
To a solution of 4-hydroxybenzoic acid (3.04 g) and anhydrous potassium carbonate (5.52 g) in N,N-dimethylformamide (20 ml) was added 2-propyloxyethyl chloride (2.94 g), and the mixture was stirred at room temperature overnight, and then stirred at 80° C. for 8 hours. To a reaction solution was added water, and then the mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, successively, dried and concentrated under reduced pressure to give the title compound (5.21 g; crude).

reactant | 4-hydroxybenzoic acid | 3.04 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | potassium carbonate | 5.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propyloxyethyl chloride | 2.94 g | C(CC)OCCCl | C5H11ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(2-Propyloxyethoxy)benzoic Acid | 5.21 g | C(CC)OCCOC1=CC=C(C(=O)O)C=C1 | C12H16O4
